US08067447B2
To a stirred solution of 6-bromo-3-phenyl-1H-indazole (109 mg, 0.40 mmol) in anhydrous THF (3 mL) was added n-butyl lithium solution (2M in hexanes, 0.47 mL, 0.94 mmol) dropwise at −78° C. under argon. The reaction mixture was stirred at −78° C. for 30 min and at −40° C. for 6 min before benzaldehyde (0.1 mL, 1 mmol) was added at −40° C. The reaction mixture was then stirred at rt for 1 hr. quenched with saturated aqueous ammonium chloride solution (5 mL) and extracted with ethyl acetate (10 mL). The ethyl acetate extract was dried (Na2SO4) and concentrated. Silica gel flash chromatography gave phenyl(3-phenyl-1H-indazol-6-yl)methanol (71 mg, 0.24 mmol, 59% yield) as a solid.

reactant | 6-bromo-3-phenyl-1H-indazole | 0.40 mmol, 109 mg | BrC1=CC=C2C(=NNC2=C1)C1=CC=CC=C1 | C13H9BrN2
reactant | n-butyl lithium | 0.94 mmol, 2M, 0.47 mL | C(CCC)[Li]
reactant | benzaldehyde | 1 mmol, 0.1 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | phenyl(3-phenyl-1H-indazol-6-yl)methanol | 0.24 mmol, 71 mg, 59% yield | C1(=CC=CC=C1)C(O)C1=CC=C2C(=NNC2=C1)C1=CC=CC=C1 | C20H16N2O
